US05849916
Preparation of 3-Methoxy-2-(methoxymethyl)-2-propenal, (E)-- and (Z)--
A solution of 3-(dimethylamino)-2-(methoxymethyl)-2-propenal, (E)-- and (Z)-- (53.06 g, 0.37 mol) and sodium hydroxide solution (29.7 g, 50%, 0.37 mol) in methanol (60 mL) is refluxed for 20 minutes and concentrated in vacuo to obtain a white solid. A solution of the solid in water (250 mL) is treated dropwise with dimethyl sulfate (46.75 g, 0.37 mol), stirred at room temperature for one hour and extracted with methylene chloride. The organic extract is dried over anhydrous sodium sulfate, concentrated in vacuo and distilled to give the title product as a colorless liquid (19.66 g, bp 80° C./0.5 mm Hg, 41% yield).

reactant | 3-(dimethylamino)-2-(methoxymethyl)-2-propenal | CN(C=C(C=O)COC)C | C7H13NO2
reactant | sodium hydroxide | 0.37 mol, 29.7 g | [OH-].[Na+]
reactant | dimethyl sulfate | 0.37 mol, 46.75 g | S(=O)(=O)(OC)OC | C2H6O4S
solvent | methanol | 60 mL | CO | CH4O
solvent | water | 250 mL | O | H2O
product | 3-Methoxy-2-(methoxymethyl)-2-propenal | 19.66 g, 41% yield | COC=C(C=O)COC | C6H10O3
